US06455528B1
(1) Synthesis of 1-Acetyl-4-(4-fluoro-2-nitrophenyl)piperazine
To a solution of 1-acetylpiperazine (48 g) in acetonitrile (100 ml) were added 2,5-difluoronitrobenzene (50 g) and potassium carbonate (44 g) and the mixture was refluxed under heating for 5 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate and the solvent was evaporated to give the title compound (88 g) as a red solid.

reactant | 1-acetylpiperazine | 48 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | 2,5-difluoronitrobenzene | 50 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | potassium carbonate | 44 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-Acetyl-4-(4-fluoro-2-nitrophenyl)piperazine | 88 g | C(C)(=O)N1CCN(CC1)C1=C(C=C(C=C1)F)[N+](=O)[O-] | C12H14FN3O3
